US07390925B2
Step C: tert-Butyl (3-(methoxyimino)-3-(4-methoxyphenyl)-propanamido)(methylthio)methylenecarbamate
A mixture of 3-(methoxyimino)-3-(4-methoxyphenyl)propanoic acid (223 mg), tert-butyl amino(methylthio)methylenecarbamate (190 mg), EDAC.HCl (384 mg), DMAP (122 mg) and triethylamine (0.56 mL) in dichloromethane (3 mL) was stirred at room temperature for 12 h. The crude reaction mixture was purified directly by preparative TLC eluting with 35% ethyl acetate/75% hexanes to give the title compound as a yellowish oil (350 mg). HPLC retention time: 2.42 min (method A). MS (ESI) (M+Na)+ 418.18.

reactant | 3-(methoxyimino)-3-(4-methoxyphenyl)propanoic acid | 223 mg | CON=C(CC(=O)O)C1=CC=C(C=C1)OC | C11H13NO4
reactant | tert-butyl amino(methylthio)methylenecarbamate | 190 mg | NC(SC)=NC(OC(C)(C)C)=O | C7H14N2O2S
reactant | EDAC.HCl | 384 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.56 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | tert-Butyl (3-(methoxyimino)-3-(4-methoxyphenyl)-propanamido)(methylthio)methylenecarbamate | 350 mg | CON=C(CC(=O)NC(SC)=NC(OC(C)(C)C)=O)C1=CC=C(C=C1)OC | C18H25N3O5S
